US03946049
A. 5-(4-Methoxyphenyl)-2-furaldehyde
A 5l. three-necked flask equipped with stirrer, thermometer and dropping funnel was charged with water (150ml), concentrated HCl (400 ml) was introduced, followed by p-anisidine (185 g, 1.5 moles). A solution of sodium nitrite (108 g, 1.56 moles) in water (300 ml) was introduced dropwise maintaining -10° to -5°C. Furfural (184 g, 1.92 moles) was introduced followed by a solution of CuCl2.2H2O (46 g) in water (300 ml). The reaction mixture was heated to 53° with hot water maintaining 53°-68° for 2.5 hours. After cooling to room temperature overnight, the reaction mixture was extracted with ether (1800 ml). The dried (MgSO4) extract was evaporated in a rotary evaporator, and the residue was distilled under reduced pressure to give 70 g of black semi-solid product (b.p. 160°-190° at 2-5 mm).

reactant | HCl | 400 ml | Cl | ClH
reactant | p-anisidine | 1.5 moles, 185 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium nitrite | 1.56 moles, 108 g | N(=O)[O-].[Na+]
reactant | Furfural | 1.92 moles, 184 g | C(C1=CC=CO1)=O | C5H4O2
solvent | water | 300 ml | O | H2O
solvent | water | 300 ml | O | H2O
solvent | water | 150ml | O | H2O
product | 5-(4-Methoxyphenyl)-2-furaldehyde | 70 g | COC1=CC=C(C=C1)C1=CC=C(O1)C=O | C12H10O3
